US08236826B2
Production of N-{6-[4-(4-benzyl-2-oxopiperazin-1-ylmethyl)phenoxy]pyridin-3-yl}-3,4-dichlorobenzamide dihydrochloride
To a solution of 4-benzylpiperazin-2-one (0.56 g, 2.95 mmol) in DMF (10 mL) was added 60% sodium hydride (0.12 g, 2.95 mmol), and this solution was stirred at room temperature for 30 minutes. 2-(4-chloromethylphenoxy)-5-nitropyridine (0.78 g, 2.95 mmol) was added to the reaction mixture, and the mixture was stirred for 1 hour at room temperature. To this mixture was added brine (50 mL), and extracted with ethyl acetate (50 mL). The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The remaining oil was dissolved in ethyl acetate (5 mL), and to the resulting solution was added iron powder (0.33 g, 5.89 mmol). This solution was stirred for 2 hours at room temperature. The resulting reaction solution was concentrated under reduced pressure, and a saturated sodium bicarbonate solution (50 mL) was added to the residue. The obtained mixture was extracted with ethyl acetate (50 mL). The ethyl acetate layer was washed with brine, dried over anhydrous sodium sulfate, and evaporated. The remaining oil was dissolved in THF (10 mL). To the resulting solution were added triethylamine (0.21 mL, 1.47 mmol) and 3,4-dichlorobenzoyl chloride (0.31 mL, 1.47 mmol), and this solution was stirred at room temperature for 2 hours. A saturated sodium bicarbonate solution (50 mL) was added to the solution, and extracted with ethyl acetate (50 mL). The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=40:1). The obtained oil was dissolved in ethyl acetate (5 mL), and to the resulting solution was added a solution of 4 N hydrogen chloride in ethyl acetate (1.5 mL, 6 mmol). The formed white powder was collected by suction filtration, to thereby yield 0.045 g of the title compound.

reactant | 4-benzylpiperazin-2-one | 2.95 mmol, 0.56 g | C(C1=CC=CC=C1)N1CC(NCC1)=O | C11H14N2O
reactant | sodium hydride | 2.95 mmol, 0.12 g | [H-].[Na+]
reactant | 2-(4-chloromethylphenoxy)-5-nitropyridine | 2.95 mmol, 0.78 g | ClCC1=CC=C(OC2=NC=C(C=C2)[N+](=O)[O-])C=C1 | C12H9ClN2O3
reactant | triethylamine | 1.47 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | 3,4-dichlorobenzoyl chloride | 1.47 mmol, 0.31 mL | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | ethyl acetate | 6 mmol, 1.5 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | brine | 50 mL | [Cl-].[Na+].O
catalyst | iron | 5.89 mmol, 0.33 g | [Fe] | Fe
product | N-{6-[4-(4-benzyl-2-oxopiperazin-1-ylmethyl)phenoxy]pyridin-3-yl}-3,4-dichlorobenzamide dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1CC(N(CC1)CC1=CC=C(OC2=CC=C(C=N2)NC(C2=CC(=C(C=C2)Cl)Cl)=O)C=C1)=O | InChI=1S/C30H26Cl2N4O3.2ClH/c31-26-12-8-23(16-27(26)32)30(38)34-24-9-13-28(33-17-24)39-25-10-6-22(7-11-25)19-36-15-14-35(20-29(36)37)18-21-4-2-1-3-5-21;;/h1-13,16-17H,14-15,18-20H2,(H,34,38);2*1H
